US08133886B2
Step 1.3: 6-Hydroxy-benzooxazole-3-carboxylic acid (4-chloro-3-trifluoromethyl-phenyl)-amide
As a solution in 25 ml THF, 469 mg (1.04 mMol) 6-benzyloxy-benzooxazole-3-carboxylic acid (4-chloro-3-trifluoromethyl-phenyl)-amide are hydrogenated during 1 h in the presence of 267 mg Pd/C (10%). The catalyst is filtered off, washed with THF and the filtrate concentrated. Trituration with hexane gives the crystalline title compound, which is filtered off and washed with hexane: HPLC: tRet=14.3.

reactant | 6-benzyloxy-benzooxazole-3-carboxylic acid (4-chloro-3-trifluoromethyl-phenyl)-amide | 1.04 mMol, 469 mg | ClC1=C(C=C(C=C1)NC(=O)N1COC2=C1C=CC(=C2)OCC2=CC=CC=C2)C(F)(F)F | C22H16ClF3N2O3
solvent | THF | 25 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 267 mg | [Pd] | Pd
product | 6-Hydroxy-benzooxazole-3-carboxylic acid (4-chloro-3-trifluoromethyl-phenyl)-amide | ClC1=C(C=C(C=C1)NC(=O)N1COC2=C1C=CC(=C2)O)C(F)(F)F | C15H10ClF3N2O3
